*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 4.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_0 1 2 3 4 REF
C_C1 1 REF 0.8869081786328pf
C_C2 1 2 14.882119896078pf
C_C3 1 3 0.0211489355195pf
C_C4 1 4 0.2133570733751pf
C_C5 2 REF 1.0835963537978pf
C_C6 2 3 0.1101662166174pf
C_C7 3 REF 0.4393561663298pf
C_C8 3 4 6.3423800383126pf
C_C9 4 REF 0.4390246582202pf
L_L1 3 5 1.3065437098408nh
R_RL1 5 4 -1.049274843e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_1 1 2 3 4 REF
C_C1 1 REF 0.7412221107549pf
C_C2 1 2 15.261008524983pf
C_C3 1 3 0.0205692353242pf
C_C4 1 4 0.2153633151357pf
C_C5 2 REF 0.9410510140949pf
C_C6 2 3 0.1102938641478pf
C_C7 3 REF 0.4398666691113pf
C_C8 3 4 4.6939173451609pf
C_C9 4 REF 0.4383572515317pf
R_R1 1 2 999.8346469354
L_L1 3 5 1.3078892727802nh
R_RL1 5 4 3.497823468e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_2 1 2 3 4 REF
C_C1 1 REF 0.6268615241131pf
C_C2 1 2 15.67057261716pf
C_C3 1 3 0.0198448750847pf
C_C4 1 4 0.218279698853pf
C_C5 2 REF 0.8310101419612pf
C_C6 2 3 0.1107158181273pf
C_C7 3 REF 0.4402204205869pf
C_C8 3 4 3.5427372030905pf
C_C9 4 REF 0.4377240143015pf
L_L1 3 5 1.3090096305906nh
R_RL1 5 4 2.0922992178e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_3 1 2 3 4 REF
C_C1 1 REF 0.5189085260196pf
C_C2 1 2 16.227777955575pf
C_C3 1 3 0.0187366650946pf
C_C4 1 4 0.2230658331893pf
C_C5 2 REF 0.7298943313374pf
C_C6 2 3 0.1115824228957pf
C_C7 3 REF 0.4405195195283pf
C_C8 3 4 2.5521549132252pf
C_C9 4 REF 0.4370189833196pf
L_L1 3 5 1.3101430294046nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_4 1 2 3 4 REF
C_C1 1 REF 0.4259359505235pf
C_C2 1 2 16.950091630368pf
C_C3 1 3 0.0171479130338pf
C_C4 1 4 0.2300738168637pf
C_C5 2 REF 0.6466564720228pf
C_C6 2 3 0.1129841811803pf
C_C7 3 REF 0.4407688268426pf
C_C8 3 4 1.7583549946056pf
C_C9 4 REF 0.4363429245745pf
L_L1 3 5 1.3112748525679nh
R_RL1 5 4 -1.232404611e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_5 1 2 3 4 REF
C_C1 1 REF 0.3609357362948pf
C_C2 1 2 17.740717595863pf
C_C3 1 3 0.0152497883018pf
C_C4 1 4 0.2383665289811pf
C_C5 2 REF 0.5929289722432pf
C_C6 2 3 0.1147389421294pf
C_C7 3 REF 0.4409701090211pf
C_C8 3 4 1.2332156080133pf
C_C9 4 REF 0.4358726162539pf
L_L1 3 5 1.3121879553298nh
R_RL1 5 4 -2.74422593e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_6 1 2 3 4 REF
C_C1 1 REF 0.3147850104998pf
C_C2 1 2 18.604045193819pf
C_C3 1 3 0.0130294172472pf
C_C4 1 4 0.2478276384687pf
C_C5 2 REF 0.5594685056441pf
C_C6 2 3 0.1168185473469pf
C_C7 3 REF 0.4411659811611pf
C_C8 3 4 0.8736330381169pf
C_C9 4 REF 0.4356045927532pf
L_L1 3 5 1.3129368396394nh
R_RL1 5 4 -4.02260186e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_7 1 2 3 4 REF
C_C1 1 REF 0.2769576492951pf
C_C2 1 2 19.717325130177pf
C_C3 1 4 0.2603534800371pf
C_C4 2 REF 0.5383300204553pf
C_C5 2 3 0.1196787422845pf
C_C6 3 REF 0.4414081035303pf
C_C7 3 4 0.5868430997418pf
C_C8 4 REF 0.4355198618087pf
L_L1 3 5 1.3136416494369nh
R_RL1 5 4 -5.202140983e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_8 1 2 3 4 REF
C_C1 1 REF 0.2470701874876pf
C_C2 1 2 21.122666446026pf
C_C3 1 4 0.2763835672545pf
C_C4 2 REF 0.5297858021276pf
C_C5 2 3 0.1235012593996pf
C_C6 3 REF 0.441691532995pf
C_C7 3 4 0.3661374810454pf
C_C8 4 REF 0.4356421638049pf
L_L1 3 5 1.3143049010777nh
R_RL1 5 4 -6.203276217e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_9 1 2 3 4 REF
C_C1 1 REF 0.2239919161814pf
C_C2 1 2 22.916685187211pf
C_C3 1 4 0.2969372014833pf
C_C4 2 REF 0.5341595910732pf
C_C5 2 3 0.1286767637288pf
C_C6 3 REF 0.4419852790238pf
C_C7 3 4 0.2035965379758pf
C_C8 4 REF 0.4359623898421pf
L_L1 1 5 99.03290779365nh
R_RL1 5 2 14.489492455846
L_L2 3 6 1.3148913343638nh
R_RL2 6 4 -6.857974347e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_10 1 2 3 4 REF
C_C1 1 REF 0.2053362822875pf
C_C2 1 2 25.192927244374pf
C_C3 1 4 0.3229235855276pf
C_C4 2 REF 0.5503103383988pf
C_C5 2 3 0.135622229652pf
C_C6 3 REF 0.442227773275pf
C_C7 3 4 0.0860303017634pf
C_C8 4 REF 0.4364102796052pf
L_L1 1 5 62.597723623274nh
R_RL1 5 2 6.5573597903347
L_L2 3 6 1.3153791527671nh
R_RL2 6 4 -7.075130179e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_11 1 2 3 4 REF
C_C1 1 REF 0.1882327959372pf
C_C2 1 2 28.161298191819pf
C_C3 1 4 0.3564830502243pf
C_C4 2 REF 0.5780938481811pf
C_C5 2 3 0.1451816934271pf
C_C6 3 REF 0.4423435680335pf
C_C7 4 REF 0.4369071058558pf
L_L1 1 5 39.606980893669nh
R_RL1 5 2 1.9370276472684
L_L2 3 6 1.315756050631nh
R_RL2 6 4 -6.735349984e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_12 1 2 3 4 REF
C_C1 1 REF 0.1690062751623pf
C_C2 1 2 32.100826140949pf
C_C3 1 4 0.4004468706894pf
C_C4 2 REF 0.6172432741515pf
C_C5 2 3 0.158435697518pf
C_C6 3 REF 0.4422730250364pf
C_C7 4 REF 0.437382141853pf
L_L1 1 5 24.719749895111nh
R_RL1 5 2 0.0672224372835
L_L2 3 6 1.3155978629249nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_13 1 2 3 4 REF
C_C1 1 REF 0.1420751562411pf
C_C2 1 2 37.640484128671pf
C_C3 1 4 0.4614163895794pf
C_C4 2 REF 0.6702997767408pf
C_C5 2 3 0.177680672414pf
C_C6 3 REF 0.4419682176862pf
C_C7 4 REF 0.4378146183673pf
L_L1 1 5 15.024285343522nh
R_RL1 5 2 -1.037526147212
L_L2 3 6 1.3152448545487nh
R_RL2 6 4 -4.25903894e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_14 1 2 3 4 REF
C_C1 1 REF 0.0986379284385pf
C_C2 1 2 45.862162810456pf
C_C3 1 4 0.5509147885563pf
C_C4 2 REF 0.7428520008244pf
C_C5 2 3 0.2067480504091pf
C_C6 3 REF 0.4414113191624pf
C_C7 4 REF 0.4382591131873pf
R_R1 1 2 435.54274996494
L_L1 1 5 8.5823403353176nh
R_RL1 5 2 -0.874966029694
L_L2 3 6 1.3146832984401nh
R_RL2 6 4 -2.225526487e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_15 1 2 3 4 REF
C_C1 1 REF 0.0192114492613pf
C_C2 1 2 59.427604117171pf
C_C3 1 4 0.6975656111207pf
C_C4 2 REF 0.8517696261823pf
C_C5 2 3 0.2550040310132pf
C_C6 3 REF 0.4405596435225pf
C_C7 4 REF 0.4389088855753pf
R_R1 1 2 229.35271273858
L_L1 1 5 5.4396202032614nh
R_RL1 5 2 1.0503766244547
L_L2 3 6 1.3137065569207nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_16 1 2 3 4 REF
C_C1 1 2 87.11335230454pf
C_C2 1 4 0.9960348025573pf
C_C3 2 REF 1.0570857970607pf
C_C4 2 3 0.3533767444453pf
C_C5 3 REF 0.4392012213213pf
C_C6 4 REF 0.4404041885827pf
R_R1 1 2 125.47530286554
L_L1 1 5 2.3616039429943nh
R_RL1 5 2 -0.293893107725
L_L2 1 6 97.102927879636nh
R_RL2 6 3 -0.281630178059
L_L3 1 7 96.327414222455nh
R_RL3 7 4 -0.282407469612
L_L4 2 8 97.11914460767nh
R_RL4 8 3 0.0048155354462
L_L5 2 9 96.346028004131nh
R_RL5 9 4 0.0047856433647
L_L6 3 10 1.3117534813895nh
R_RL6 10 4 2.8639974687e-5
Kn_K1 L_L1 L_L2 0.077439914104
Kn_K2 L_L1 L_L3 0.0776715524098
Kn_K3 L_L1 L_L4 -0.078504245788
Kn_K4 L_L1 L_L5 -0.078898046288
Kn_K5 L_L2 L_L3 0.9932264536626
Kn_K6 L_L2 L_L4 0.9878407060332
Kn_K7 L_L2 L_L5 0.9810063495316
Kn_K8 L_L2 L_L6 -0.092471044837
Kn_K9 L_L3 L_L4 0.9810316040916
Kn_K10 L_L3 L_L5 0.9877429757438
Kn_K11 L_L3 L_L6 0.0238521759536
Kn_K12 L_L4 L_L5 0.9932276224567
Kn_K13 L_L4 L_L6 -0.092357137736
Kn_K14 L_L5 L_L6 0.0239564834234
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_17 1 2 3 4 REF
C_C1 1 2 162.19177948053pf
C_C2 1 4 1.8053052067961pf
C_C3 2 REF 1.5869422260886pf
C_C4 2 3 0.6191843102568pf
C_C5 3 REF 0.4365679199095pf
C_C6 4 REF 0.4452409621085pf
R_R1 1 2 60.302820363936
L_L1 1 5 0.8648513676557nh
R_RL1 5 2 -0.101974893574
L_L2 1 6 40.510016902157nh
R_RL2 6 3 -0.076995531131
L_L3 1 7 39.789492494772nh
R_RL3 7 4 -0.077852379277
L_L4 2 8 40.607293009739nh
R_RL4 8 3 5.5984632951e-4
L_L5 2 9 39.890151851446nh
R_RL5 9 4 6.4482802769e-4
L_L6 3 10 1.3065945054876nh
R_RL6 10 4 5.1884372669e-5
Kn_K1 L_L1 L_L2 0.0648394052116
Kn_K2 L_L1 L_L3 0.0651354712097
Kn_K3 L_L1 L_L4 -0.081176414195
Kn_K4 L_L1 L_L5 -0.082190859741
Kn_K5 L_L2 L_L3 0.9837680914373
Kn_K6 L_L2 L_L4 0.9893389750781
Kn_K7 L_L2 L_L5 0.9729788607821
Kn_K8 L_L2 L_L6 -0.139314911682
Kn_K9 L_L3 L_L4 0.9730833128963
Kn_K10 L_L3 L_L5 0.9891466825276
Kn_K11 L_L3 L_L6 0.0406410532373
Kn_K12 L_L4 L_L5 0.9838075393158
Kn_K13 L_L4 L_L6 -0.138915707828
Kn_K14 L_L5 L_L6 0.0408240590913
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_18 1 2 3 4 REF
C_C1 1 2 586.71646584242pf
C_C2 1 4 6.3843692264337pf
C_C3 2 REF 4.525955710982pf
C_C4 2 3 2.1182942963655pf
C_C5 3 REF 0.4253516653205pf
C_C6 4 REF 0.4759618924369pf
R_R1 1 2 14.451139713259
L_L1 1 5 19.373120294599nh
R_RL1 5 REF -0.0627119368
L_L2 1 6 0.1621299625178nh
R_RL2 6 2 -0.019716842384
L_L3 1 7 9.2943325392384nh
R_RL3 7 3 -0.011753471795
L_L4 1 8 8.6266901128217nh
R_RL4 8 4 -0.012595718235
L_L5 2 9 19.267746237449nh
R_RL5 9 REF -0.085211295017
L_L6 2 10 9.330182396581nh
R_RL6 10 3 -6.235948516e-4
L_L7 2 11 8.6670445861322nh
R_RL7 11 4 -4.587819973e-4
L_L8 3 12 28.487932404931nh
R_RL8 12 REF -0.100174125298
L_L9 3 13 1.2777705315737nh
R_RL9 13 4 5.5869521252e-5
L_L10 4 14 27.812333430025nh
R_RL10 14 REF -0.10051653138
Kn_K1 L_L1 L_L2 0.0754690508368
Kn_K2 L_L1 L_L5 0.9958078868045
Kn_K3 L_L1 L_L8 0.8208285587807
Kn_K4 L_L1 L_L10 0.8305668682483
Kn_K5 L_L2 L_L3 0.0514356455244
Kn_K6 L_L2 L_L4 0.0514844582627
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080484865197
Kn_K9 L_L2 L_L7 -0.085407201974
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9293450588226
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9912966453034
Kn_K15 L_L3 L_L7 0.9201440422118
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.282258007296
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9207711408188
Kn_K21 L_L4 L_L7 0.9906276276636
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0918845520537
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8200561032798
Kn_K26 L_L5 L_L10 0.829687323348
Kn_K27 L_L6 L_L7 0.9296330954941
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.281062904538
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0923471999902
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1618816077505
Kn_K35 L_L8 L_L10 0.9773747332351
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_19 1 2 3 4 REF
C_C1 1 REF 13.643533071685pf
C_C2 1 3 6.8159139967065pf
C_C3 2 4 20.648324718607pf
C_C4 3 REF 0.4852581219702pf
C_C5 4 REF 0.2892448723909pf
R_R1 1 REF 999.92107941499
R_R2 1 2 -7.378880103099
R_R3 1 4 -671.0093272539
R_R4 2 4 673.3356794096
L_L1 1 5 4.5980881423169nh
R_RL1 5 REF -0.011915805951
L_L2 1 6 0.2732292246481nh
R_RL2 6 2 0.1660342330747
L_L3 1 7 2.9235948160245nh
R_RL3 7 3 0.0780721799438
L_L4 1 8 2.360436098456nh
R_RL4 8 4 0.1034184649836
L_L5 2 9 4.8321283472636nh
R_RL5 9 REF 0.1709570943994
L_L6 2 10 2.8471751638416nh
R_RL6 10 3 0.016486211106
L_L7 2 11 2.2393889422198nh
R_RL7 11 4 0.0074059944484
L_L8 3 12 7.5184222138278nh
R_RL8 12 REF 0.0753542850097
L_L9 3 13 1.1797934437911nh
R_RL9 13 4 0.0018452702608
L_L10 4 14 6.9635049973035nh
R_RL10 14 REF 0.102590781417
Kn_K1 L_L1 L_L2 0.0174816404329
Kn_K2 L_L1 L_L5 0.9713253826857
Kn_K3 L_L1 L_L8 0.7817560895438
Kn_K4 L_L1 L_L10 0.8130361491058
Kn_K5 L_L2 L_L3 0.1956050105872
Kn_K6 L_L2 L_L4 0.2454771469477
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.111569517288
Kn_K9 L_L2 L_L7 -0.097275875313
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0393012205693
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7811739816934
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9527364416803
Kn_K16 L_L3 L_L7 0.7336839262451
Kn_K17 L_L3 L_L8 0.980395541131
Kn_K18 L_L3 L_L9 -0.469238773313
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7155436663375
Kn_K22 L_L4 L_L7 0.9409259403298
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1847561356265
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0216869880425
Kn_K27 L_L5 L_L7 0.0164175819051
Kn_K28 L_L5 L_L8 0.7883431588291
Kn_K29 L_L5 L_L9 -0.011071307732
Kn_K30 L_L5 L_L10 0.823709502858
Kn_K31 L_L6 L_L7 0.7735992928235
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.487669200045
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1759558711769
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2912263767696
Kn_K39 L_L8 L_L10 0.9192084624944
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_20 1 2 3 4 REF
C_C1 1 2 676.00816503033pf
C_C2 1 4 7.3426115140689pf
C_C3 2 REF 5.1369149466205pf
C_C4 2 3 2.435470772644pf
C_C5 3 REF 0.4217431421295pf
C_C6 4 REF 0.4807738089617pf
R_R1 1 2 34.36192072897
L_L1 1 5 11.410322697946nh
R_RL1 5 REF -0.129120756638
L_L2 1 6 0.066169285718nh
R_RL2 6 2 -2.917372159e-3
L_L3 1 7 5.7832019133385nh
R_RL3 7 3 -1.467945772e-3
L_L4 1 8 5.1288675131725nh
R_RL4 8 4 -1.709569864e-3
L_L5 2 9 11.319725606372nh
R_RL5 9 REF -0.131616928628
L_L6 2 10 5.8167360067293nh
R_RL6 10 3 1.3448435108e-4
L_L7 2 11 5.169546994627nh
R_RL7 11 4 1.3993883225e-4
L_L8 3 12 17.092270454414nh
R_RL8 12 REF -0.141431653511
L_L9 3 13 1.2525446476026nh
R_RL9 13 4 3.9445461123e-5
L_L10 4 14 16.430148664966nh
R_RL10 14 REF -0.141249055831
Kn_K1 L_L1 L_L2 0.0902081424362
Kn_K2 L_L1 L_L5 0.9970968271597
Kn_K3 L_L1 L_L8 0.8134256315172
Kn_K4 L_L1 L_L10 0.8293695734782
Kn_K5 L_L2 L_L3 0.0263781163654
Kn_K6 L_L2 L_L4 0.0218774923797
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080354829086
Kn_K9 L_L2 L_L7 -0.091345057354
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.012409977482
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8868105420017
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942998755033
Kn_K16 L_L3 L_L7 0.8803301449762
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.354252044816
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8819171858169
Kn_K22 L_L4 L_L7 0.9935825599649
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1180093734471
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.812212222399
Kn_K27 L_L5 L_L10 0.8278688470515
Kn_K28 L_L6 L_L7 0.8875314506333
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.351905810218
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1189481638843
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2069029310086
Kn_K36 L_L8 L_L10 0.9628234424279
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_21 1 2 3 4 REF
C_C1 1 2 97.954931742377pf
C_C2 1 4 1.1039163401185pf
C_C3 2 REF 1.1369392716844pf
C_C4 2 3 0.394980567534pf
C_C5 3 REF 0.4355621289459pf
C_C6 4 REF 0.4372127102284pf
R_R1 1 2 110.68394638999
L_L1 1 5 0.3282045671147nh
R_RL1 5 2 -0.027839864641
L_L2 1 6 33.589488352935nh
R_RL2 6 3 0.0010420613077
L_L3 1 7 32.831407197475nh
R_RL3 7 4 5.5784239827e-4
L_L4 2 8 33.874034169125nh
R_RL4 8 3 7.7336096268e-4
L_L5 2 9 33.12461821307nh
R_RL5 9 4 8.9777090041e-4
L_L6 3 10 1.3018054618003nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.09188567821
Kn_K2 L_L1 L_L5 -0.09423329846
Kn_K3 L_L2 L_L3 0.9804645251453
Kn_K4 L_L2 L_L4 0.9951439327299
Kn_K5 L_L2 L_L5 0.9754610320348
Kn_K6 L_L2 L_L6 -0.155753775009
Kn_K7 L_L3 L_L4 0.9758131705773
Kn_K8 L_L3 L_L5 0.9950337204822
Kn_K9 L_L3 L_L6 0.0415844497077
Kn_K10 L_L4 L_L5 0.9806310252783
Kn_K11 L_L4 L_L6 -0.154445778309
Kn_K12 L_L5 L_L6 0.0420597743401
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_22 1 2 3 4 REF
C_C1 1 REF 0.2330596434948pf
C_C2 1 2 34.566366413373pf
C_C3 1 4 0.4186487772685pf
C_C4 2 REF 0.696303008283pf
C_C5 2 3 0.1698264718797pf
C_C6 3 REF 0.4368407798482pf
C_C7 4 REF 0.4320923083036pf
R_R1 1 2 244.67356562645
L_L1 1 5 0.8246669420636nh
R_RL1 5 2 0.2759223278863
L_L2 3 6 1.3074574332488nh
R_RL2 6 4 1.5258375242e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_23 1 2 3 4 REF
C_C1 1 REF 0.3618913427009pf
C_C2 1 2 16.459371800894pf
C_C3 1 3 0.0391263869129pf
C_C4 1 4 0.222758681469pf
C_C5 2 REF 0.5778387259705pf
C_C6 2 3 0.1036472341885pf
C_C7 3 REF 0.4364996760431pf
C_C8 4 REF 0.4298903766117pf
R_R1 1 2 574.16275216838
L_L1 1 5 1.107873196439nh
R_RL1 5 2 0.1926993230754
L_L2 3 6 1.3069479724235nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_24 1 2 3 4 REF
C_C1 1 REF 0.4203663356152pf
C_C2 1 2 9.4752990468965pf
C_C3 1 3 0.0704421326954pf
C_C4 1 4 0.1477782625381pf
C_C5 2 REF 0.5451345007602pf
C_C6 2 3 0.0761407865496pf
C_C7 3 REF 0.4347236618159pf
C_C8 4 REF 0.4272628178783pf
L_L1 1 5 1.659351702588nh
R_RL1 5 2 0.0619498306005
L_L2 3 6 1.3047938006985nh
R_RL2 6 4 -2.702377924e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_25 1 2 3 4 REF
C_C1 1 REF 0.4492149494702pf
C_C2 1 2 6.6856637881412pf
C_C3 1 3 0.0890327973487pf
C_C4 1 4 0.1151218625979pf
C_C5 2 REF 0.5376370826404pf
C_C6 2 3 0.0619542476317pf
C_C7 2 4 0.0461172523977pf
C_C8 3 REF 0.4327389906044pf
C_C9 4 REF 0.4247283272322pf
L_L1 1 5 1.8579765389575nh
R_RL1 5 2 -1.447197015e-3
L_L2 3 6 1.3020410515571nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_26 1 2 3 4 REF
C_C1 1 REF 0.4614618393534pf
C_C2 1 2 5.9015656790306pf
C_C3 1 3 0.0997455807012pf
C_C4 1 4 0.1030816387719pf
C_C5 2 REF 0.5394750685955pf
C_C6 2 3 0.0544835024417pf
C_C7 2 4 0.0615854476584pf
C_C8 3 REF 0.4313647313668pf
C_C9 4 REF 0.4230477086893pf
L_L1 1 5 1.9392209745685nh
R_RL1 5 2 -0.028980836684
L_L2 3 6 1.3008720797244nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param44_26

